US05728835
N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-4-methoxymethyl-N-(2-methoxyphenyl)benzamide
In an atmosphere of argon, 4-methoxymethyl-N-(2-methoxyphenyl)benzamide (126 mg, 0.464 mmol), 1-(2-chloroethyl)-4-(4-fluorobenzoyl)piperidine hydrochloride (157 mg, 0.511 mmol) and sodium iodide (154 mg, 1.02 mmol) were dissolved in DMF (3 ml) to which was subsequently added sodium hydride (40 mg, 60%, 1.0 mmol) at room temperature. After stirring at room temperature for 10 minutes and then at 60° C. for 3.5 hours, DMF was removed by evaporation. The resulting residue was diluted with water (10 ml) and extracted with ethyl acetate, and the organic layer was washed with water and saturated brine and then dried on anhydrous sodium carbonate. Thereafter, the solvent was removed by evaporation, and the resulting residue was purified by subjecting it to a silica gel column chromatography (methylene chloride:methanol=80:1-ethyl acetate) to obtain 128 mg (54.7%) of the title compound in the form of colorless oil.

reactant | 4-methoxymethyl-N-(2-methoxyphenyl)benzamide | 0.464 mmol, 126 mg | COCC1=CC=C(C(=O)NC2=C(C=CC=C2)OC)C=C1 | C16H17NO3
reactant | 1-(2-chloroethyl)-4-(4-fluorobenzoyl)piperidine hydrochloride | 0.511 mmol, 157 mg | Cl.ClCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O
reactant | sodium iodide | 1.02 mmol, 154 mg | [I-].[Na+]
reactant | sodium hydride | 1.0 mmol, 40 mg | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-4-methoxymethyl-N-(2-methoxyphenyl)benzamide | 128 mg, 54.7% | FC1=CC=C(C(=O)C2CCN(CC2)CCN(C(C2=CC=C(C=C2)COC)=O)C2=C(C=CC=C2)OC)C=C1 | C30H33FN2O4
